US05998433
c) Synthesis of N,N-dimethyl-[5-(4-phenylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[5-(4-phenylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.140 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. After this mixture was concentrated, the resulting crude product was recrystallized from diethyl ether-ethanol to yield the desired product.

reactant | N,N-Dimethyl-[5-(4-phenylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.140 g | CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C1=CC=CC=C1)=O | C23H24N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[5-(4-phenylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C1=CC=CC=C1)=O | InChI=1S/C23H24N2O2.ClH/c1-24(2)16-21-14-20-15-25(13-12-22(20)27-21)23(26)19-10-8-18(9-11-19)17-6-4-3-5-7-17;/h3-11,14H,12-13,15-16H2,1-2H3;1H
